US04370335
N-[7-Oxo(6-carboethoxy)octyl]phthalimide
A solution of sodium ethoxide in ethanol, prepared by dissolving 23.69 g (1.03 moles) of sodium in 800 ml of absolute alcohol, was treated slowly with ethyl acetoacetate. To this solution was added, in one portion, 308 g (1.04 moles) of N-(5-bromopentyl)phthalimide and the resulting mixture was refluxed for two hours and stirred overnight at 25°. The ethanol was stripped, 1500 ml of water was added to the residue, and the resulting mixture was extracted with 3×400 ml of ether. The ether layers were combined, dried over anhydrous sodium sulfate, filtered and stripped to give 350 g of light brown oil. This material was used in the next step without purification.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.03 moles, 23.69 g | [Na] | Na
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | N-(5-bromopentyl)phthalimide | 1.04 moles, 308 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
solvent | ethanol | C(C)O | C2H6O
solvent | water | 1500 ml | O | H2O
product | N-[7-Oxo(6-carboethoxy)octyl]phthalimide | 350 g | O=C(C(CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC)C | C19H23NO5
